US08975256B2
5-Cyano-2-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)anisole (Reference Compound No. 20-1)
A mixture of 5-cyano-2-trifluoromethylsulfonyloxyanisole (Reference Compound No. 19-1, 200 mg, 0.711 mmol), bis(pinacolato)diboron (200 mg, 0.788 mmol), potassium acetate (213 mg, 2.17 mmol), and [1,1′-bis(diphenylphosphino)ferrocene] (20.0 mg, 0.0361 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloride dichloromethane complex (1:1) (29.4 mg, 0.0360 mmol) was suspended in 1,4-dioxane (4 mL), and the reaction mixture was stirred at 80° C. overnight. After cooling down, ethyl acetate (100 mL) and water (100 mL) were added and partitioned. The organic layer was washed with saturated brine (50 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl, acetate) to give the titled reference compound (123 mg) as a colorless solid. (Yield 67%)

reactant | 5-cyano-2-trifluoromethylsulfonyloxyanisole | 0.711 mmol, 200 mg | C(#N)C=1C=CC(=C(C1)OC)OS(=O)(=O)C(F)(F)F | C9H6F3NO4S
reactant | bis(pinacolato)diboron | 0.788 mmol, 200 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.17 mmol, 213 mg | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 100 mL | O | H2O
product | 5-Cyano-2-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)anisole | 123 mg, Yield 67% | C(#N)C=1C=CC(=C(C1)OC)B1OC(C(O1)(C)C)(C)C | C14H18BNO3
